datasets/10k__Tet_Int.csv
SMILES Labelled
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)CCCCCC>>CCN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O]CC.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[S:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[O]C(C)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O:10]([K])C([H])C(C)N([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C(C)N1C 10=20;20,21=21"
"[H]C1C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC>>[H]C1C(O[C:20](=[O:10])N1CC)CCCCCC.[O-:21]C 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(O)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C(O)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(CC)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]C)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]C)[S]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H]>>CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C([H])[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(C)[O]1 10=20;20,21=21"
"CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C1=CC=CC=C1)[H]>>CN([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C)[NH]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C([H])=C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])/C(C)=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[NH:10][H].C[NH+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
